US03931197
A mixture of 25.4 g (0.0905 mole) of α-phenyl-α-(p-tolyl)-4-piperidinemethanol, 26.2 g (0.11 mole) of 4'-tert-butyl-4-chlorobutyrophenone, 22 g of potassium bicarbonate, 0.1 g of potassium iodide, 250 ml of toluene, and 40 ml of water is refluxed for 88 hours. Upon cooling to room temperature the toluene layer is separated, and the aqueous layer is extracted with toluene. The combined toluene extracts are dried over magnesium sulfate, filtered and the filtrate is treated with ethereal HCl. The resulting precipitate is filtered, triturated with ether, and recrystallized from butanone-ether to give 4'-tert-butyl-4-[4-[α-(p-tolyl)benzylidene]piperidino]butyrophenone hydrochloride, M.P. 187°-189°C.

reactant | α-phenyl-α-(p-tolyl)-4-piperidinemethanol | 0.0905 mole, 25.4 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)C | C19H23NO
reactant | 4'-tert-butyl-4-chlorobutyrophenone | 0.11 mole, 26.2 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C14H19ClO
reactant | potassium bicarbonate | 22 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-tert-butyl-4-[4-[α-(p-tolyl)benzylidene]piperidino]butyrophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=C(C=C1)C)=O | InChI=1S/C33H39NO.ClH/c1-25-12-14-28(15-13-25)32(27-9-6-5-7-10-27)29-20-23-34(24-21-29)22-8-11-31(35)26-16-18-30(19-17-26)33(2,3)4;/h5-7,9-10,12-19H,8,11,20-24H2,1-4H3;1H
